US04678792
2-(4-Chlorobenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride
The title compound is prepared analogously to Example A from 6,7-dimethoxy-3,4-dihydroisoquinoline and 4-chlorobenzyl chloride in ethylene chloride. Melting point: 182°-184° C. (Decomp.)

reactant | 6,7-dimethoxy-3,4-dihydroisoquinoline | COC=1C=C2CCN=CC2=CC1OC | C11H13NO2
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 2-(4-Chlorobenzyl)-6,7-dimethoxy-3,4-dihydroisoquinolinium chloride | [Cl-].ClC1=CC=C(C[N+]2=CC3=CC(=C(C=C3CC2)OC)OC)C=C1 | InChI=1S/C18H19ClNO2.ClH/c1-21-17-9-14-7-8-20(12-15(14)10-18(17)22-2)11-13-3-5-16(19)6-4-13;/h3-6,9-10,12H,7-8,11H2,1-2H3;1H/q+1;/p-1
